US08791303B2
Preparation of cycloheptanecarbaldehyde
To a stirred solution of cycloheptyl-methanol (1.28 g, 0.01 mol) in CH2Cl2 (50 ml) at room temperature was added portionwise PCC (3.23 g, 0.015 mol). The reaction turned almost instantly dark brown as was stirred at room temperature for 4 hours. The reaction was then diluted with Et2O (50 ml) and the solvent decanted away from the solid residue. The residue was washed with further Et2O (2×25 ml). The reaction mixture and combined washing were then filtered through a 10 g SiO2 chromatography cartridge and washed through with further Et2O (25 ml). The solvent was then removed under reduced pressure to yield the desired compound (1.08 g) as a colourless, pungent oil which was used without further purification.

reactant | cycloheptyl-methanol | 0.01 mol, 1.28 g | C1(CCCCCC1)CO | C8H16O
reactant | PCC | 0.015 mol, 3.23 g | C=1C=C[NH+]=CC1.[O-][Cr](=O)(=O)Cl
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | Et2O | 50 ml | CCOCC | C4H10O
product | cycloheptanecarbaldehyde | 1.08 g | C1(CCCCCC1)C=O | C8H14O
